US07713982B2
f) 1,3-dibutyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile
A solution of 1,3-dibutyl-2,6-dioxo-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile (140 mg, 0.43 mmol) in anhydrous THF (4 ml) and anhydrous DMSO (0.4 ml) was treated with Pd(PPh3)4 (74 mg, 0.064 mmol). The mixture was degassed under gentle vacuum, morpholine (371 uL) added, and left to stir at rt under nitrogen for 4 hours. The yellow solution was partitioned between 2M HCl(aq) and EtOAc. The organic layer was separated, washed with brine, dried (MgSO4) and concentrated. The residue was taken up in MeOH and passed down and amino-propyl SPE (5 g), eluting with MeOH followed by 5%→50% AcOH/MeOH. The product eluted with a small impurity which was washed out, after concentrating, with cyclohexane to afford the title compound as an off-white solid (30 mg, 24%). NMR δH (400 MHz, d6-DMSO) 0.89 (app. td, 6H, J=7 and 3 Hz), 1.25-1.35 (m, 4H), 12.48-1.55 (m, 2H), 1.58-1.69 (m, 2H), 3.87 (t, 2H, J=7 Hz), 3.95 (t, 2H, J=7 Hz), NH not observed to δH 15; m/z 290.3[MH+].

reactant | 1,3-dibutyl-2,6-dioxo-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile | 0.43 mmol, 140 mg | C(CCC)N1C(N(C=2N=C(N(C2C1=O)CC=C)C#N)CCCC)=O | C17H23N5O2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | DMSO | 0.4 ml | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)4 | 0.064 mmol, 74 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,3-dibutyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile | 30 mg, 24% | C(CCC)N1C(N(C=2N=C(NC2C1=O)C#N)CCCC)=O | C14H19N5O2
